US05166214
Part C. To a solution of N-(5-hydroxypentyl)-N-heptylamine (11.65 g, 0.0578 mol) in methylene chloride (75 mL) under a nitrogen atmosphere cooled to 0°, 2,4-difluorophenylisocyanate (8.97 g, 0.0578 mol) was added slowly. The reaction mixture was stirred for 1 hour, poured into 1N aqueous HCl (200 mL) and was extracted with ethyl acetate (300 mL). The combined organic layer was washed with water, brine, dried over magnesium sulfate and was concentrated to give N'-(2,4-difluorophenyl)-N-heptyl-N-5-hydroxypentylurea as a pale yellow oil (20.0 g, 0.056 mol). 1H NMR (CDCl3) δ8.03(m,1H), 6.88-6.59(m,2H), 6.45(bs,1H), 3.68(t,2H), 3.33(m,4H), 1.81-1.22(m,16H), 0.907(t,3H).

reactant | N-(5-hydroxypentyl)-N-heptylamine | 0.0578 mol, 11.65 g | OCCCCCNCCCCCCC | C12H27NO
reactant | 2,4-difluorophenylisocyanate | 0.0578 mol, 8.97 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | N'-(2,4-difluorophenyl)-N-heptyl-N-5-hydroxypentylurea | 0.056 mol, 20.0 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCO)CCCCCCC)=O | C19H30F2N2O2
